### PR TITLE
feat: combinatorics simplegraph basic

### PR DESCRIPTION
**Pull request by nicolaviolette**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Basic.lean [hunk 1]
```diff
@@ -624,6 +626,9 @@ theorem fromEdgeSet_mono {s t : Set (Sym2 V)} (h : s ⊆ t) : fromEdgeSet s ≤
 @[simp] lemma fromEdgeSet_disjoint : Disjoint (fromEdgeSet s) G ↔ Disjoint s G.edgeSet := by
   rw [disjoint_comm, disjoint_fromEdgeSet, disjoint_comm]
 
+@[simp] lemma fromEdgeSet_le {s : Set (Sym2 V)} :
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Basic.lean:629]:
```suggestion
@[simp] lemma fromEdgeSet_le_iff {s : Set (Sym2 V)} :
```

File: Mathlib/Combinatorics/SimpleGraph/Basic.lean [hunk 2]
```diff
@@ -205,6 +205,8 @@ instance : LE (SimpleGraph V) :=
 theorem isSubgraph_eq_le : (IsSubgraph : SimpleGraph V → SimpleGraph V → Prop) = (· ≤ ·) :=
   rfl
 
+lemma le_iff_adj {H : SimpleGraph V} : G ≤ H ↔ ∀ v w, G.Adj v w → H.Adj v w := .rfl
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Basic.lean:208]: I think this lemma has been added in another PR, so let's omit it for now.

**Review by b-mehta — COMMENTED** [review]
Thanks for your PR! I've left two comments. 
Please also adjust the title of the PR to be more specific. You can read about the PR conventions for this project here: https://leanprover-community.github.io/contribute/commit.html.
